US08835428B2
Methyl 2-(3-(4-((R)-2-hydroxy-2-phenylacetamido)phenyl) isoxazole-5-carboxamido)-3-methylbutanoate
To (R)-2-hydroxy-2-phenylacetic acid (200 mg), methyl 2-(3-(4-aminophenyl) isoxazole-5-carboxamido)-3-methylbutanoate (417 mg), in N,N′-Dimethyl formamide (5 ml), DCC (406 mg) and HOBT (177 mg) were added and stirred at RT for 16 hours. The reaction mixture was filtered and concentrated to obtain brown oil which was purified by column chromatography (silica gel, EtOAc—CHCl3) to obtain pale brown solid which was crystallized from DCM-Petroleum ether to yield 235 mg (39%) of the title compound as off white solid. MS (ES+): m/z 452 (M+1); 1H NMR (DMSO-d6; 300 MHz): δ 10.19 (s, 1H), 9.2 (d, 1H), 7.88 (d, 4H), 7.69 (s, 1H), 7.54 (m, 2H), 7.39-7.27 (m, 3H), 6.51 (d, 1H), 5.13 (d, 1H), 4.3 (m, 1H), 3.67 (s, 3H), 2.24 (m, 1H), 0.96 (d, 6H).

reactant | (R)-2-hydroxy-2-phenylacetic acid | 200 mg | O[C@@H](C(=O)O)C1=CC=CC=C1 | C8H8O3
reactant | methyl 2-(3-(4-aminophenyl) isoxazole-5-carboxamido)-3-methylbutanoate | 417 mg | NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C | C16H19N3O4
reactant | DCC | 406 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 177 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | Methyl 2-(3-(4-((R)-2-hydroxy-2-phenylacetamido)phenyl) isoxazole-5-carboxamido)-3-methylbutanoate | 235 mg, 39% | O[C@@H](C(=O)NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C)C1=CC=CC=C1 | C24H25N3O6
